US05288748
A mixture of 12 g (32 mmol) 8-chloro-7-nitro-2-(n-propylbenzoyl)amino-1,2,3,4-tetrahydronaphthalene, 25 g ammonium formate and 1.0 g Pd/C (added cautiously under inert atmosphere) was stirred over night. After filtering (Celite) and evaporation the material was brought to suspension in ethyl acetate. Filtering and evaporation yielded 7.8 g (22.7 mmol) of 8-chloro-7-amino-2-(n-propylbenzoyl)amino-1,2,3,4-tetrahydronaphthalene, which was recharged with 50 g ammonium formate, 2 g Pd/C (added cautiously under inert atmosphere) and 200 ml ethanol. The mixture was stirred at room temperature for 4 days. The reaction ceased at about 1/1 ratio (GLC) of product and starting material. The mixture was worked-up as below and recharged with ammonium formate and Pd/C. After stirring for two days the reaction was almost completed. The mixture was filtered (Celite) and evaporated. Ethyl acetate and water where added, the mixture shaken and separated. The organic phase was washed (10% sodium carbonate), dried (magnesium sulfate), filtered and evaporated to yield 5.3 g (54%) crude product which was purified on silica column (dichloromethane/methanol, 19:1) giving 3.9 g product.

reactant | 8-chloro-7-nitro-2-(n-propylbenzoyl)amino-1,2,3,4-tetrahydronaphthalene | 32 mmol, 12 g | ClC=1C(=CC=C2CCC(CC12)NC(C1=C(C=CC=C1)CCC)=O)[N+](=O)[O-] | C20H21ClN2O3
reactant | ammonium formate | 25 g | C(=O)[O-].[NH4+]
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 8-chloro-7-amino-2-(n-propylbenzoyl)amino-1,2,3,4-tetrahydronaphthalene | 22.7 mmol, 7.8 g | ClC=1C(=CC=C2CCC(CC12)NC(C1=C(C=CC=C1)CCC)=O)N | C20H23ClN2O
